US06277502B1
A mixture of 0.50 g of hex-5-enyl 3,4-dimethoxycinnamate, 1.0 ml of toluene, 2.9 ml of triethoxysilane and 0.02 ml of a solution of 134 mg of hexachloro(IV) platinic acid hexahydrate in 10 ml of isopropanol is allowed to react overnight at 40° C. The reaction mixture is then cooled to room temperature and filtered over a silica gel pad and the filtrate is completely evaporated down. Chromatography of the residue over silica gel gives 6-triethoxysilanylhexyl 3,4-dimethoxycinnamate.

reactant | hex-5-enyl 3,4-dimethoxycinnamate | 0.50 g | COC=1C=C(C=CC(=O)OCCCCC=C)C=CC1OC | C17H22O4
reactant | toluene | 1.0 ml | C1(=CC=CC=C1)C | C7H8
reactant | triethoxysilane | 2.9 ml | C(C)O[SiH](OCC)OCC | C6H16O3Si
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
product | 6-triethoxysilanylhexyl 3,4-dimethoxycinnamate | COC=1C=C(C=CC(=O)OCCCCCC[Si](OCC)(OCC)OCC)C=CC1OC | C23H38O7Si
